US05739344
Step B: Preparation of 2-(-4-aminophenyl)-5-aminobenzoxazole
2-(4-Nitrophenyl)-5-nitrobenzoxazole (30 g, 0.105 mol), ethoxyethanol (300 mL) and 10 percent Pd/C (300 mg) were placed in a 600 mL Parr Reactor. The reactor was heated to 70° C. at 50 psi hydrogen (340 kPa) for 3 hours, then 90° C. at 150 psi hydrogen (1033 kPa) for an additional 16 hours. After the hydrogen was vented off, the solution was filtered hot under nitrogen. A portion of the solvent (100 mL) was removed from the solution and deionized water (100 mL) was added thereto, causing product to precipitate. The solution containing the precipitated product was stirred and refluxed for 1 hour. The solution was cooled to room temperature, and the product was filtered and washed with methanol (50 mL). The product was dried and 20.7 g (87 percent yield) of an off-white solid having a melting point of 226° C. to 228° C. was obtained.

reactant | 2-(4-Nitrophenyl)-5-nitrobenzoxazole | 0.105 mol, 30 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C13H7N3O5
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 300 mg | [Pd] | Pd
solvent | ethoxyethanol | 300 mL | C(C)OC(C)O | C4H10O2
product | 2-(-4-aminophenyl)-5-aminobenzoxazole | 20.7 g, 87 percent yield | NC1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)N | C13H11N3O
